US04315006
(b) 3-Ethoxy-5-(2-hydroxyphenyl)-2-cyclohexenone
5-(2-Hydroxyphenyl)-1,3-cyclohexanedione (5.0 g) was dissolved in ethanol (225 ml). The solution was heated under reflux for 3h and diluted to 2 l. by the addition of water. The solid which separated out was collected by filtration, washed with water and dried. Recrystallisation from ethanol afforded the title compound (1.5 g) as pale yellow prisms m.p. 194°-197°.

reactant | 5-(2-Hydroxyphenyl)-1,3-cyclohexanedione | 5.0 g | OC1=C(C=CC=C1)C1CC(CC(C1)=O)=O | C12H12O3
reactant | water | O | H2O
reactant | ethanol | 225 ml | C(C)O | C2H6O
product | 3-Ethoxy-5-(2-hydroxyphenyl)-2-cyclohexenone | 1.5 g | C(C)OC1=CC(CC(C1)C1=C(C=CC=C1)O)=O | C14H16O3
